US08541594B2
To a suspension of 1-[2-(4-chlorophenyl)thiazol-5-yl]ethanone (5 g, 21 mmol) in methanol (100 ml) is added sodium borohydride (832 mg, 22 mmol) at room temperature. The reaction mixture is stirred at room temperature for 1 hour. The reaction mixture is quenched with saturated aqueous ammonium chloride solution (100 ml) and extracted with dichloromethane (2×150 ml). The combined organic extracts are dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to give 1-[2-(4-chlorophenyl)thiazol-5-yl]ethanol (4.88 g).

reactant | 1-[2-(4-chlorophenyl)thiazol-5-yl]ethanone | 21 mmol, 5 g | ClC1=CC=C(C=C1)C=1SC(=CN1)C(C)=O | C11H8ClNOS
reactant | sodium borohydride | 22 mmol, 832 mg | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-[2-(4-chlorophenyl)thiazol-5-yl]ethanol | 4.88 g | ClC1=CC=C(C=C1)C=1SC(=CN1)C(C)O | C11H10ClNOS
